US07176241B2
4-Cyano-tetrahydro furane 3-carboxylic acid methyl ester was dissolved in 4.9 ml of pyridine and treated with 4.4 ml (60 mmol) of SOCl2 during 90 min under nitrogen at 4° C. The resulting solution was warmed to room temperature, stirred for 6 hours and poured into 40 ml water at 4° C. and extracted with benzene. Combined extracts were dried and concentrated in vacuo to give 90% yield of 4-cyano-2,5-dihydro furane 3-carboxylic acid methyl ester.

reactant | 4-Cyano-tetrahydro furane 3-carboxylic acid methyl ester | COC(=O)C1COCC1C#N | C7H9NO3
reactant | SOCl2 | 60 mmol, 4.4 ml | O=S(Cl)Cl | Cl2OS
reactant | water | 40 ml | O | H2O
solvent | pyridine | 4.9 ml | N1=CC=CC=C1 | C5H5N
product | 4-cyano-2,5-dihydro furane 3-carboxylic acid methyl ester | 90% yield | COC(=O)C=1COCC1C#N | C7H7NO3
